US04470986
A solution of 2.7 g of 5-(6-carboxyhexyl)-imidazo[1,5-a]pyridine in a mixture of 120 ml of ethanol and 30 ml of concentrated hydrochloric acid is hydrogenated at 3 atmospheres in the presence of 1 g of 10% palladium on charcoal catalyst until 2 moles of hydrogen are consumed. The mixture is filtered free of catalyst and evaporated to dryness. The residue is recrystallized from isopropanol-ether to yield the 5-(6-carboxyhexyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine hydrochloride melting at 150°-4°.

reactant | 5-(6-carboxyhexyl)-imidazo[1,5-a]pyridine | 2.7 g | C(=O)(O)CCCCCCC1=CC=CC=2N1C=NC2 | C14H18N2O2
reactant | hydrogen | 2 moles | [H][H] | H2
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | ethanol | 120 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 1 g | [Pd] | Pd
product | 5-(6-carboxyhexyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine hydrochloride | Cl.C(=O)(O)CCCCCCC1CCCC=2N1C=NC2 | InChI=1S/C14H22N2O2.ClH/c17-14(18)9-4-2-1-3-6-12-7-5-8-13-10-15-11-16(12)13;/h10-12H,1-9H2,(H,17,18);1H
